US07157470B2
Part A. To a mixture of (2-oxo-piperidin-3-yl)-carbamic acid benzyl ester (1.35 g, 5.44 mmol) and 1-(4-iodo-phenyl)-cyclopropanecarboxylic acid (1.56 g, 5.42 mmol, 1.0 eq) in DMSO (5 mL) was added K2CO3 (3.00 g, 21.73 mmol, 4.0 eq), CuI (0.52 g, 2.74 mmol, 0.5 eq), and 1,10-phenanthroline (0.50 g, 2.74 mmol, 0.5 eq) sequentially. The mixture was heated at 120° C. overnight under N2. After cooling, EtOAc and H2O was added. The mixture was filtered. The filtrate was washed with 1N NaOH. The aqueous layer was acidified with conc. HCl, and extracted with EtOAc (3×). The organics were washed with brine, dried over MgSO4, filtered, and concentrated to give crude 1-[4-(3-benzyloxycarbonyl-amino-2-oxo-piperidin-1-yl)-phenyl]-cyclopropanecarboxylic acid (0.69 g, slightly contaminated with disubstituted compound). LC/MS (ESI) 409.2 (M+H).

reactant | (2-oxo-piperidin-3-yl)-carbamic acid benzyl ester | 5.44 mmol, 1.35 g | C(C1=CC=CC=C1)OC(NC1C(NCCC1)=O)=O | C13H16N2O3
reactant | 1-(4-iodo-phenyl)-cyclopropanecarboxylic acid | 5.42 mmol, 1.56 g, 1.0 eq | IC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9IO2
reactant | K2CO3 | 21.73 mmol, 3.00 g, 4.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 2.74 mmol, 0.50 g, 0.5 eq | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | CuI | 2.74 mmol, 0.52 g, 0.5 eq | [Cu]I
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[4-(3-benzyloxycarbonyl-amino-2-oxo-piperidin-1-yl)-phenyl]-cyclopropanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)C1(C(N(CCC1)C1=CC=C(C=C1)C1(CC1)C(=O)O)=O)N | C23H24N2O5
